US06399656B1
Preparation of N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(2-thienyl)benzamide
A solution of 2-thienylzinc bromide in tetrahydrofuran (0.5M, 5 mL, 2.5 mmol) was added to a solution of N-[3-[2-(diisopropylamino)ethoxy]-4-methoxypheny]-4-iodobenzamide (WO 99/01127) (0.5 g, 1 mmol) in tetrahydrofuran (5 mL) containing tetrakis(triphenylphosphine)palladium(0) (80 mg, 0.06 mmol), and the mixture was stirred at RT for 16 h. The reaction was quenched with saturated ammonium chloride and extracted with ether and dichloromethane. The organic phase was dried (MgSO4), concentrated in vacuo, and chromatographed (silica gel, 5% methanol/dichloromethane) to afford the title compound (0.1 g) MS(ES) m/e 452.8 [M+H]+.

reactant | 2-thienylzinc bromide | [Br-].S1C(=CC=C1)[Zn+]
reactant | N-[3-[2-(diisopropylamino)ethoxy]-4-methoxypheny]-4-iodobenzamide | 1 mmol, 0.5 g | C(C)(C)N(CCOC=1C=C(C=CC1OC)NC(C1=CC=C(C=C1)I)=O)C(C)C | C22H29IN2O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.06 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 2.5 mmol, 0.5M, 5 mL | O1CCCC1 | C4H8O
product | N-[3-[2-[Bis(1-methylethyl)amino]ethoxy]-4-methoxyphenyl]-4-(2-thienyl)benzamide | 0.1 g | CC(C)N(CCOC=1C=C(C=CC1OC)NC(C1=CC=C(C=C1)C=1SC=CC1)=O)C(C)C | C26H32N2O3S
